US07473784B2
7. 4-Fluoro-2-(isopropylamino)benzo[d]thiazole-6-carbaldehyde
A mixture of 2-bromo-4-fluorobenzo[d]thiazole-6-carbaldehyde (0.110 g, 0.423 mmol) and isopropylamine (0.15 ml, 1.76 mmol) in 1,4-dioxane (5 mL) was heated at reflux for 36 hr. The solution was allowed to cool to rt and 1N HCl (1 mL) was added. The mixture was heated at 60° C. for 1 hr. After it cooled to rt, the mixture was poured into saturated NaHCO3 solution (20 mL) and extracted with AcOEt (3×25 mL). The combined extract was dried over anhydrous MgSO4 and concentrated to dryness under vacuum to provide the title crude compound, which was used in the next step without further purification.

reactant | 2-bromo-4-fluorobenzo[d]thiazole-6-carbaldehyde | 0.423 mmol, 0.110 g | BrC=1SC2=C(N1)C(=CC(=C2)C=O)F | C8H3BrFNOS
reactant | isopropylamine | 1.76 mmol, 0.15 ml | C(C)(C)N | C3H9N
reactant | HCl | 1N, 1 mL | Cl | ClH
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-2-(isopropylamino)benzo[d]thiazole-6-carbaldehyde | FC1=CC(=CC2=C1N=C(S2)NC(C)C)C=O | C11H11FN2OS
